US04960797
A solution of 8.2 g. (0.05 mole) of (±)-N-methyl-2-(4-amino-phenyl)-1-methyl-ethyl amine (HU-PS 154,060) in 30 ml. 56% fluoroboric acid and 3.5 g. (0.051 mole) of sodium nitrite in 25 ml. water are simultaneously dropped into 100 ml. of 56% fluoro boric acid under stirring and cooling at -5°-(-7°)C. so that a small excess of nitrite solution is maintained in the reaction mixture during the addition. The mixture is then stirred for a further 30 minutes at -5°-(-7°)C. and in small portions 2.5 g. freshly prepared copper (I) chloride is added to the solution. The mixture is stirred for 2 hours at room temperature and stirred for 80°-90° C. for 2 hours. After cooling the mixture is extracted with ether and the aqueous acid layer is alkalized with conc. ammonium hydroxide and extracted with benzene. The benzene extract is evaporated after drying and the residue is distilled at 10 mmHg. As a main cut 5.6 g. (±)-N-methyl-2-(4-fluorophenyl)-1-methyl-ethyl-amine (boiling point: 87°-90° C./10 mmHg) obtained which are reacted according to Example 2 with propargyl bromide and processed according to Example 2. 3.8 g. (±)-N-methyl-N-propynyl-2-(4-fluoro-phenyl)-1-methyl-ethyl-amine are obtained. Bp.: 120°-123° C./2 mmHg, nD20 =1.5054.

reactant | (±)-N-methyl-2-(4-amino-phenyl)-1-methyl-ethyl amine | 0.05 mole | CNC(CC1=CC=C(C=C1)N)C | C10H16N2
reactant | fluoroboric acid | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 0.051 mole | N(=O)[O-].[Na+]
reactant | nitrite | N(=O)[O-]
catalyst | copper (I) chloride | [Cu]Cl
solvent | water | O | H2O
product | (±)-N-methyl-2-(4-fluorophenyl)-1-methyl-ethyl-amine | CNC(CC1=CC=C(C=C1)F)C | C10H14FN
